US07319104B2
2-[4-(2-{(6-Methoxy-1,3-benzothiazol-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate and 2-chloro-6-methoxy benzothiazole.

reactant | ethyl 2-methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]propanoate | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)CCNCC1=CC=C(C=C1)C(F)(F)F | C22H26F3NO3
reactant | 2-chloro-6-methoxy benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
product | 2-[4-(2-{(6-Methoxy-1,3-benzothiazol-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | COC1=CC2=C(N=C(S2)N(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)CC2=CC=C(C=C2)C(F)(F)F)C=C1 | C28H27F3N2O4S
